US05006534
1-[2-(2(1H)-quinolon-8-yloxymethyl)phenyl]heptyl acetate
6.5 g of 2,8-dihydroxyquinoline, 5.5 g of anhydrous ground potassium carbonate are stirred in 100 ml of dimethylformamide at 25° C. for 1 hour. After addition of 13.1 g of 1-(2-bromomethylphenyl)heptyl acetate in 50 ml of dimethylformamide, the mixture is stirred at 25° C. for 20 hours. The solvent is removed in vacuo, the residue is taken up in 100 ml of water and the mixture is extracted 3 times with 50 ml of ethyl acetate each time. The organic phases are washed once with 50 ml of water each time, dried over Na2SO4 and concentrated in vacuo. The oil which remains is chromatographed over silica gel 60 with CH2Cl2 /ethyl acetate 10:1. The resulting product slowly crystallizes out.

reactant | 2,8-dihydroxyquinoline | 6.5 g | OC1=NC2=C(C=CC=C2C=C1)O | C9H7NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-bromomethylphenyl)heptyl acetate | 13.1 g | C(C)(=O)OC(CCCCCC)C1=C(C=CC=C1)CBr | C16H23BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2(1H)-quinolon-8-yloxymethyl)phenyl]heptyl acetate | C(C)(=O)OC(CCCCCC)C1=C(C=CC=C1)COC=1C=CC=C2C=CC(NC12)=O | C25H29NO4
